US07994185B2
N-{5-[5-{2-[(1-Acetyl-4-piperidinyl)amino]-4-pyrimidinyl}-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.10 g, 0.19 mmol) and 1-acetyl-4-piperidinamine (0.27 g, 1.9 mmol) in THF (1 mL) the title compound was obtained as an off-white solid (0.075 g, 0.12 mmol, 62% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.82 (s, 1H), 8.12 (d, J=5.0 Hz, 1H), 7.68-7.43 (m, 3H), 7.44-7.17 (m, 5H), 4.33-4.18 (m, 1H), 3.83-3.73 (m, 1H), 3.44-3.20 (m, 2H), 2.66-2.32 (m, 4H), 1.99 (s, 3H), 1.36 (d, J=6.8 Hz, 6H), 1.35-1.10 (m, 2H). MS (ESI): 631 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.19 mmol, 0.10 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C22H16ClF3N4O2S2
reactant | 1-acetyl-4-piperidinamine | 1.9 mmol, 0.27 g | C(C)(=O)N1CCC(CC1)N | C7H14N2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-{5-[5-{2-[(1-Acetyl-4-piperidinyl)amino]-4-pyrimidinyl}-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | C(C)(=O)N1CCC(CC1)NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C29H29F3N6O3S2
